US07910740B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(5-piperidin-1-ylmethyl-thiazol-2-yl)-amine
The title compound was prepared in analogy to example 57 from 16 mg (0.19 mmol) piperidine and 65 mg (0.21 mmol) 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde. The reaction was not complete and the same amount of reagent was added like in example 57. The crude product was purified on silica gel with methylene chloride/methanol 9/1 yielding 36 mg (50%) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(5-piperidin-1-ylmethyl-thiazol-2-yl)-amine as a yellow oil. MS ISP (m/e): 384.3 (100) (M+H)+. 1H NMR (CDCl3, 250 MHz): δ (ppm)=7.64 (s, 1H), 7.25 (d, 1H), 7.18 (d, 1H), 7.08 (s, 1H), 6.96 (d, 1H), 6.87 (s, 1H), 3.85 (s, 3H), 3.59 (s, 2H), 2.42 (m, 4H), 2.30 (s, 3H), 1.59-1.54 (m, 4H), 1.45-1.43 (m, 2H).

reactant | piperidine | 0.19 mmol, 16 mg | N1CCCCC1 | C5H11N
reactant | 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde | 0.21 mmol, 65 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=CN1)C=O | C15H14N4O2S
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(5-piperidin-1-ylmethyl-thiazol-2-yl)-amine | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=CN1)CN1CCCCC1 | C20H25N5OS
